US06369110B1
Methyl 4-methylthio-6,7-dihydro-5H-benzocycloheptene-8-carboxylate (0.50 g, 2.01 mmol) was dissolved in methanol (10 ml), followed by adding thereto a 30% aqueous hydrogen peroxide solution (1.14 ml, 10.07 mmol) and sodium tungstate dihydrate (0.066 g, 0.201 mmol), and the resulting mixture was stirred at 70° C. for 5.5 hours. Water was added to the reaction mixture, followed by extraction with ethyl acetate (twice), and the extract solution was washed with water and a saturated aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain 0.589 g of methyl 4-methylsulfonyl-6,7-dihydro-5H-benzocycloheptene-8-carboxylate.

reactant | Methyl 4-methylthio-6,7-dihydro-5H-benzocycloheptene-8-carboxylate | 2.01 mmol, 0.50 g | CSC1=CC=CC=2C=C(CCCC21)C(=O)OC | C14H16O2S
reactant | hydrogen peroxide | 10.07 mmol, 1.14 ml | OO | H2O2
reactant | Water | O | H2O
reactant | methanol | 10 ml | CO | CH4O
catalyst | sodium tungstate dihydrate | 0.201 mmol, 0.066 g | O.O.[O-][W](=O)(=O)[O-].[Na+].[Na+]
product | methyl 4-methylsulfonyl-6,7-dihydro-5H-benzocycloheptene-8-carboxylate | 0.589 g | CS(=O)(=O)C1=CC=CC=2C=C(CCCC21)C(=O)OC | C14H16O4S
